US04061791
a. 2'-Cyano-3,4'-dinitrobenzanilide
A solution of 8.16 gm. (0.05 mole) of 2-amino-5-nitrobenzonitrile and 9.28 gm. (0.05 mole) of m-nitro benzoyl chloride in 50 ml. of dry pyridine is refluxed for 3 hours. The pyridine is removed by distillation in vacuo and the solid residue triturated with water. There is obtained 15.3 gm. (95%) of a yellow solid that melts at 203°-205°. Recrystallization from aqueous ethanol (2:1) gives material melting at 205°-206°.

reactant | 2-amino-5-nitrobenzonitrile | 0.05 mole | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | m-nitro benzoyl chloride | 0.05 mole | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2'-Cyano-3,4'-dinitrobenzanilide | C(#N)C1=C(NC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C=CC(=C1)[N+](=O)[O-] | C14H8N4O5
